US05959113
A solution of 2.7 g of 2-(2,6-dimethyl-3-nitrophenyl)-1,3-dioxolane in 30 ml of ethyl acetate was hydrogenated in the presence of 0.2 g of platinum oxide for 45 minutes. The catalyst was filtered off and the solution was concentrated to a crystalline residue. Recrystallization from hexane yielded 2.35 g of 2-(3-amino-2,6-dimethylphenyl)-1,3-dioxolane, m.p. 100-103° C.

reactant | 2-(2,6-dimethyl-3-nitrophenyl)-1,3-dioxolane | 2.7 g | CC1=C(C(=CC=C1[N+](=O)[O-])C)C1OCCO1 | C11H13NO4
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
catalyst | platinum oxide | 0.2 g | [Pt]=O
product | 2-(3-amino-2,6-dimethylphenyl)-1,3-dioxolane | 2.35 g | NC=1C(=C(C(=CC1)C)C1OCCO1)C | C11H15NO2
